US06875778B2
Preparation of 1,3-bis[(6-chloronicotinyl)-2-nitroiminoimidazolidin-3-yl]propane
Sodium hydride (60% oil dispersion, 0.17 g, 4.25 mmol) was suspended in 10 ml of DMF. 1-(6-Chloronicotinyl)-2-nitroiminoimidazolidine (1.03 g, 4 mmol), which is commonly referred to as imidacloprid), was added to this suspension. This mixture was then stirred for 1 hour at room temperature. A solution of 1,3-diiodopropane (0.58 g, 2 mmol) in DMF (10 ml) was then added dropwise to this reaction mixture over the course of 30 minutes while cooling with ice. Following completion of dropping, the reaction mixture was stirred at room temperature for 4 hours.

reactant | Sodium hydride | 4.25 mmol, 0.17 g | [H-].[Na+]
reactant | 1-(6-Chloronicotinyl)-2-nitroiminoimidazolidine | 4 mmol, 1.03 g | ClC1=NC=C(CN2C(NCC2)=N[N+](=O)[O-])C=C1 | C9H10ClN5O2
reactant | imidacloprid | C1=CC(=NC=C1CN\2CCN/C2=N\[N+](=O)[O-])Cl | C9H10ClN5O2
reactant | 1,3-diiodopropane | 2 mmol, 0.58 g | ICCCI | C3H6I2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1,3-bis[(6-chloronicotinyl)-2-nitroiminoimidazolidin-3-yl]propane | ClC1=NC=C(CN2C(N(CC2)CCCN2C(N(CC2)CC2=CN=C(C=C2)Cl)=N[N+](=O)[O-])=N[N+](=O)[O-])C=C1 | C21H24Cl2N10O4
